US06653300B2
The above-prepared [6-chloro-2-methylsulfanyl-pyrimidin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine (2.42 g, 9.46 mmol) is heated in morpholine (10 mL) at 130° C. for 15 hours. The solvent is then removed in vacuo and the solid residue is triturated in EtOH and collected by filtration to give [2-methylsulfanyl-6-(morpholin-4-yl)-pyrimidin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine.

reactant | [6-chloro-2-methylsulfanyl-pyrimidin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine | 9.46 mmol, 2.42 g | ClC1=CC(=NC(=N1)SC)NC=1NN=C(C1)C | C9H10ClN5S
reactant | morpholine | 10 mL | N1CCOCC1 | C4H9NO
product | [2-methylsulfanyl-6-(morpholin-4-yl)-pyrimidin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | CSC1=NC(=CC(=N1)NC=1NN=C(C1)C)N1CCOCC1 | C13H18N6OS
